US07906516B2
6.2 742 mg (3.00 mmol) of ethyl 2-ethoxy-1,2-dihydroquinoline-1-carboxylate (EEDQ) are added to a suspension of 459 mg (2.00 mmol) of Boc-4-keto-D-proline and 372 mg (2.00 mmol) of 1-(4-aminophenyl)-1H-pyridin-2-one in 25 ml of toluene, and the mixture is stirred at room temperature for 18 hours. 200 ml of tert-butyl methyl ether are added, and the precipitate formed is filtered off. 200 ml of petroleum ether are added to the filtrate, and the resultant precipitate is filtered off, giving tert-butyl (R)-4-oxo-2-[4-(2-oxo-2H-pyridin-1-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate as a brownish solid; ESI 398.

reactant | ethyl 2-ethoxy-1,2-dihydroquinoline-1-carboxylate | C(C)OC1N(C2=CC=CC=C2C=C1)C(=O)OCC | C14H17NO3
reactant | Boc-4-keto-D-proline | 2.00 mmol, 459 mg | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CC(C1)=O | C10H15NO5
reactant | 1-(4-aminophenyl)-1H-pyridin-2-one | 2.00 mmol, 372 mg | NC1=CC=C(C=C1)N1C(C=CC=C1)=O | C11H10N2O
reactant | tert-butyl methyl ether | 200 ml | COC(C)(C)C | C5H12O
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl (R)-4-oxo-2-[4-(2-oxo-2H-pyridin-1-yl)phenylcarbamoyl]pyrrolidine-1-carboxylate | O=C1C[C@@H](N(C1)C(=O)OC(C)(C)C)C(NC1=CC=C(C=C1)N1C(C=CC=C1)=O)=O | C21H23N3O5
